US08445509B2
Production of N-{6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
To a solution of 6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-amine (1.0 g, 3.53 mmol) in N,N-dimethylacetamide (10 mL) was added cyclopropanecarbonyl chloride (352 μL, 3.88 mmol), and the mixture was stirred at 0° C. for 2 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (750 mg, 60%) as a slightly-yellow solid.

reactant | 6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-amine | 3.53 mmol, 1.0 g | COC1=CC=C(COC=2C=CC=3N(C2)C(=C(N3)N)C)C=C1 | C16H17N3O2
reactant | cyclopropanecarbonyl chloride | 3.88 mmol, 352 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-{6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 750 mg, 60% | COC1=CC=C(COC=2C=CC=3N(C2)C(=C(N3)NC(=O)C3CC3)C)C=C1 | C20H21N3O3
